### PR TITLE
[Merged by Bors] - chore(*): use the preferred spelling for `ne`

### PR DESCRIPTION
**Pull request by urkud**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean [hunk 1]
```diff
@@ -381,7 +381,7 @@ lemma ncard_neighborSet_toSubgraph_eq_two {u v} {p : G.Walk u u} (hpc : p.IsCycl
     exact Set.ncard_pair hpc.snd_ne_penultimate
   push_neg at he
   rw [← hi.1, hpc.neighborSet_toSubgraph_internal he.1 (by omega)]
-  exact Set.ncard_pair (hpc.getVert_sub_one_neq_getVert_add_one (by omega))
+  exact Set.ncard_pair (hpc.IsCycle.getVert_sub_one_ne_getVert_add_one (by omega))
```
Comment (JovanGerb) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean:384]: is the extra `IsCycle` a mistake?
```suggestion
  exact Set.ncard_pair (hpc.getVert_sub_one_ne_getVert_add_one (by omega))
```

Comment (urkud) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean]: Already fixed, it's a byproduct of using LSP rename functionality.

**Comment by sgouezel** [comment]
bors r+
Thanks!

**Comment by urkud** [comment]
Looks like a bors failure
bors merge
